US06620957B1
Synthesis of di-tert-butylphenyliodonium perfluorobutanesulfonate
Di-tert-butylphenyliodonium diethylphosphate (546 mg; 1 mmol) and sodium perfluorobutanesulfonate (354 mg; 1.1 mmol) were dissolved in water (10 ml), and the resultant mixture was extracted three times with methylene chloride (10 ml). The solvent was removed through distillation, and precipitated white solid was washed with ether, followed by recrystallization from a mixture of methylene chloride and ether, to thereby precipitate 561 mg of the target compound as white crystals (yield: 81%).

reactant | Di-tert-butylphenyliodonium diethylphosphate | 1 mmol, 546 mg | C(C)OP(=O)(OCC)[O-].C(C)(C)(C)[IH+](C1=CC=CC=C1)C(C)(C)C
reactant | sodium perfluorobutanesulfonate | 1.1 mmol, 354 mg | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[Na+]
solvent | water | 10 ml | O | H2O
product | di-tert-butylphenyliodonium perfluorobutanesulfonate | 561 mg, yield: 81% | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(C)(C)(C)[IH+](C1=CC=CC=C1)C(C)(C)C | InChI=1S/C14H24I.C4HF9O3S/c1-13(2,3)15(14(4,5)6)12-10-8-7-9-11-12;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h7-11,15H,1-6H3;(H,14,15,16)/q+1;/p-1
